US08664217B2
Benzoyl chloride (0.091 ml, 0.78 mmol) was added to an acetonitrile solution (3 ml) of 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (0.39 g, 0.71 mmol) and triethylamine (0.12 ml, 0.86 mmol) while cooling in an ice-bath, and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with ethyl acetate was conducted. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by medium pressure liquid chromatography (silica gel, ethyl acetate:isopropyl alcohol=100:0→92:8). The purified product was concentrated under reduced pressure and the resultant residue was dissolved in ethyl acetate (10 ml). A 1N—HCl ethanol solution (0.65 ml) was added to the solution, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to thereby obtain 0.28 g (yield: 54%) of N-[3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]-N-(2-pyridin-3-ylethyl)benzamide hydrochloride as a white powder. Melting Point 179 to 191° C.

reactant | Benzoyl chloride | 0.78 mmol, 0.091 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
reactant | 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.71 mmol, 0.39 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCNCCC=2C=NC=CC2 | C24H32N4O3
reactant | triethylamine | 0.86 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-[3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]-N-(2-pyridin-3-ylethyl)benzamide hydrochloride | 0.28 g, yield: 54% | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN(C(C2=CC=CC=C2)=O)CCC=2C=NC=CC2 | InChI=1S/C31H36N4O4.ClH/c1-5-35-26-15-14-25(21-27(26)33(4)29(37)31(2,3)30(35)38)39-20-10-18-34(19-16-23-11-9-17-32-22-23)28(36)24-12-7-6-8-13-24;/h6-9,11-15,17,21-22H,5,10,16,18-20H2,1-4H3;1H
